US07138397B2
10 ml of a N,N-dimethylformamide solution containing 1 g of N-tert-butoxycarbonyl-trans-1,4-cyclohexanediamine, 632 mg of 3-pyridinecarboxylic acid, 1.07 g of 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide and 757 mg of 1-hydroxybenzotriazole was stirred at room temperature for 24 hours. To the reaction mixture was added an aqueous saturated sodium hydrogencarbonate solution and the resulting mixture was extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure. The residue was washed with diethyl ether to obtain N-tert-butoxycarbonyl-trans-4-(3-pyridylcarbonylamino)cyclohexylamine. A mixture comprising 1.27 g of this compound and 13 ml of 15% hydrochloric acid-ethanol solution was stirred at 50° C. for 2 hours. After cooling, precipitates were filtered and washed with diethyl ether to obtain 1.12 g of trans-4-(3-pyridylcarbonylamino)cyclohexylamine dihydrochloride (Reference Example 10-2 in Table 11).

reactant | N-tert-butoxycarbonyl-trans-1,4-cyclohexanediamine | 1 g | C(C)(C)(C)OC(=O)N[C@@H]1CC[C@H](CC1)N | C11H22N2O2
reactant | 3-pyridinecarboxylic acid | 632 mg | N1=CC(=CC=C1)C(=O)O | C6H5NO2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide | 1.07 g | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | 1-hydroxybenzotriazole | 757 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N-tert-butoxycarbonyl-trans-4-(3-pyridylcarbonylamino)cyclohexylamine | C(C)(C)(C)OC(=O)N[C@@H]1CC[C@H](CC1)NC(=O)C=1C=NC=CC1 | C17H25N3O3
